US07427610B2
215 mg of 2-methoxy-estra-1,3,5(10)-triene-3,17β-diol was dissolved in 20 ml of absolute dichloromethane and cooled to −35° C. Then, 280 μl of diethylamino sulfur trifluoride was added, and the cold bath was removed. After 1 hour, it was poured into aqueous sodium bicarbonate solution and extracted with dichloromethane (3×). The combined organic phases were dried and concentrated by evaporation in a rotary evaporator. Flash chromatography (cyclohexane/ethyl acetate=10:1) yielded 49% crude product, which was purified by means of HPLC (Chiracel OD-H 250×4.6 mm; n-heptane/2-propanol=95/5). 46 mg (21%) of 17α-fluoro-3-hydroxy-2-methoxy-estra-1,3,5(10)-triene was obtained as colorless crystals.

reactant | 2-methoxy-estra-1,3,5(10)-triene-3,17β-diol | 215 mg | COC=1C(=CC=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C1)O)O | C19H26O3
reactant | diethylamino sulfur trifluoride | 280 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 17α-fluoro-3-hydroxy-2-methoxy-estra-1,3,5(10)-triene | 46 mg, 21% | F[C@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC=3C=C(C(=CC3[C@H]1CC2)OC)O | C19H25FO2
